US05348978
a) 2(S)-(3-(Acetylthio)-1-oxopropoxy)-3-(phenylmethoxy)propanoic acid
3-(Acetylthio)propanoyl chloride (0.26 g, 1.56 mmol) and (S)-2-hydroxy-3-(phenylmethoxy)propanoic acid (0.3 g, 1.53 mmol) were heated at 60° for 1 h. The cooled reaction mixture was purified by chromatography on silica with dichloromethane/acetic acid mixtures as eluant to give the sub-title acid (0.25 g).

reactant | 3-(Acetylthio)propanoyl chloride | 1.56 mmol, 0.26 g | C(C)(=O)SCCC(=O)Cl | C5H7ClO2S
reactant | (S)-2-hydroxy-3-(phenylmethoxy)propanoic acid | 1.53 mmol, 0.3 g | O[C@H](C(=O)O)COCC1=CC=CC=C1 | C10H12O4
product | 2(S)-(3-(Acetylthio)-1-oxopropoxy)-3-(phenylmethoxy)propanoic acid | 0.25 g | C(C)(=O)SCCC(O[C@H](C(=O)O)COCC1=CC=CC=C1)=O | C15H18O6S
